US08349865B2
Step 3: 6-({2,6-Dichloro-4-[(trifluoromethyl)thio]phenyl}amino)pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one
A solution of N-{2,6-dichloro-4-[(trifluoromethyl)thio]phenyl}-10-methoxypyrido[4,3-c]-1,6-naphthyridin-6-amine (15 mg, 0.03 mmol), N-{2,6-dichloro-4-[(trifluoromethyl)thio]phenyl}-10-ethoxypyrido[4,3-c]-1,6-naphthyridin-6-amine (15 mg, 0.03 mmol) and boron tribromide (0.256 ml, 0.26 mmol) in chloroform (10 ml) was stirred in a microwave vial. The vial was sealed and heated to 85° C. for 45 minutes. The crude reaction mixture was washed with sodium bicarbonate and extracted with 3:1 chloroform:isopropanol. Combined organics were concentrated under reduced pressure to afford the title compound.

reactant | N-{2,6-dichloro-4-[(trifluoromethyl)thio]phenyl}-10-methoxypyrido[4,3-c]-1,6-naphthyridin-6-amine | 0.03 mmol, 15 mg | ClC1=C(C(=CC(=C1)SC(F)(F)F)Cl)NC1=NC2=CC=NC=C2C2=C1C=CN=C2OC | C19H11Cl2F3N4OS
reactant | N-{2,6-dichloro-4-[(trifluoromethyl)thio]phenyl}-10-ethoxypyrido[4,3-c]-1,6-naphthyridin-6-amine | 0.03 mmol, 15 mg | ClC1=C(C(=CC(=C1)SC(F)(F)F)Cl)NC1=NC2=CC=NC=C2C2=C1C=CN=C2OCC | C20H13Cl2F3N4OS
reactant | boron tribromide | 0.26 mmol, 0.256 ml | B(Br)(Br)Br | BBr3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-({2,6-Dichloro-4-[(trifluoromethyl)thio]phenyl}amino)pyrido[4,3-c]-1,6-naphthyridin-10(9H)-one | ClC1=C(C(=CC(=C1)SC(F)(F)F)Cl)NC1=NC2=CC=NC=C2C2=C1C=CNC2=O | C18H9Cl2F3N4OS
